US05998429
E. N-(2-Fluorophenyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester
3-Quinuclidinol and 2-fluorophenyl isocyanate were used. The reaction solution was evaporated under reduced pressure, and the residual solid was recrystallized from ethyl acetate to afford the title compound (79%) as a white solid: mp 124.0-126.0° C.; FAB LRMS m /z (relatively intensity, %) 265 (MH+, 22), 110 (100).

reactant | 3-Quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
reactant | 2-fluorophenyl isocyanate | FC1=C(C=CC=C1)N=C=O | C7H4FNO
product | N-(2-Fluorophenyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester | 79% | N12CC(C(CC1)CC2)OC(NC2=C(C=CC=C2)F)=O | C14H17FN2O2
